US07906530B2
1,3-Benzodioxole-4-boronic acid
nBuLi (2.5M in hexanes, 2.38 mL, 5.97 mmol) was dropwise added to a solution of 4-bromo-1,3-benzodioxole (1 g, 4.97 mmol) and triisopropyl borate (1.49 mL, 6.47 mmol) in 50 mL of dry tetrahydrofuran at −78° C. under argon. The reaction was maintained at that temperature for 3 hours, then warmed up to room temperature and cooled back to 0° C. immediately. The solution was acidified to pH=2 with HCl 2N and neutralized to pH=7 with NaOH 2N, it was then extracted with ethyl acetate (3×25 ml), the organic solution was washed with brine, dried over sodium sulphate and the solvent removed under reduced pressure to yield the title compound (570 mg, 69%) as a white solid.

reactant | nBuLi | 5.97 mmol, 2.5M, 2.38 mL | [Li]CCCC
reactant | 4-bromo-1,3-benzodioxole | 4.97 mmol, 1 g | BrC1=CC=CC=2OCOC21 | C7H5BrO2
reactant | triisopropyl borate | 6.47 mmol, 1.49 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,3-Benzodioxole-4-boronic acid | 570 mg, 69% | O1COC2=C1C=CC=C2B(O)O | C7H7BO4
